US05576334
Isopropyl 4-[3-(4-amidinobenzoyl)ureido]-3-methylphenoxyacetate, hydrochloride salt
A mixture of isopropyl 4-[3-(4-amidinobenzoyl)ureido]-3-methylphenoxyacetate, acetate salt (5 g), and methanol (250 ml) was heated to reflux before a solution of pyridine hydrochloride (1.34 g) in methanol (50 ml) was added. The resultant mixture was heated to reflux until all the solids had dissolved. The hot solution was diluted with isopropanol (100 ml), quickly filtered, and the filtrate was again diluted with isopropanol (100 ml). On storage overnight at 10° C., a solid precipitated which was collected, washed with isopropanol/ether, 1:1, and ether, and dried to give the title compound (4.17 g) as an off-white solid: m.p. 257°-258° C.; NMR Spectrum (DMSO-d6) 1.23 (3H, s), 2.27 (3H, s), 4.70 (2H, s), 5.00 (1H, m), 6.79 (1H, dd), 6.87 (1H, d), 7.75 (1H, d), 7.95 (2H, d), 8.21 (2H, d), 9.30 (2H, br s), 9.54 (2H, br s), 10.48 (1H, s), 11.29 (1H, s); Mass Spectrum m/Z 413 (M+H)+ ; Elemental Analysis: calculated for C21H24N4O5. 1.0 HCl. 0.02 H2O: C, 56.1%; H, 5.62%, N, 12.5%; found: C, 55.8%; H, 5.5%; 12.3%.

reactant | isopropyl 4-[3-(4-amidinobenzoyl)ureido]-3-methylphenoxyacetate, acetate salt | 5 g | C(C)(=O)O.C(N)(=N)C1=CC=C(C(=O)NC(NC2=C(C=C(OCC(=O)OC(C)C)C=C2)C)=O)C=C1
reactant | pyridine hydrochloride | 1.34 g | Cl.N1=CC=CC=C1
solvent | methanol | 50 ml | CO | CH4O
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
solvent | methanol | 250 ml | CO | CH4O
product | Isopropyl 4-[3-(4-amidinobenzoyl)ureido]-3-methylphenoxyacetate, hydrochloride salt | 4.17 g | Cl.C(N)(=N)C1=CC=C(C(=O)NC(NC2=C(C=C(OCC(=O)OC(C)C)C=C2)C)=O)C=C1 | InChI=1S/C21H24N4O5.ClH/c1-12(2)30-18(26)11-29-16-8-9-17(13(3)10-16)24-21(28)25-20(27)15-6-4-14(5-7-15)19(22)23;/h4-10,12H,11H2,1-3H3,(H3,22,23)(H2,24,25,27,28);1H
